US05238939
A mixture of 200 g of 3,4-dimethoxybenzeneethanol and 163,7 g of 1-(4-piperidinyl)ethanone in 800 ml of ethanol saturated with anhydrous hydrochloric acid was stirred for 15 h at ambient temperature. The mixture was concentrated under vacuum, and the concentrate was diluted with 500 ml of ethanol after which the hydrochloride precipitated. After filtration the hydrochloride was dissolved in water and sodium hydroxide until the pH was 12. The base was extracted with dichloromethane, and the organic phase was washed with water, dried and evaporated to yield 251 g (86,5%) of crude 4-(3,4-dihydro-6,7-dimethoxy-1-methyl-1H-2-benzopyran-1-yl)piperidine.

reactant | 3,4-dimethoxybenzeneethanol | 200 g | COC=1C=C(C=CC1OC)CCO | C10H14O3
reactant | 1-(4-piperidinyl)ethanone | 163,7 g | N1CCC(CC1)C(C)=O | C7H13NO
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 4-(3,4-dihydro-6,7-dimethoxy-1-methyl-1H-2-benzopyran-1-yl)piperidine | 251 g, 86,5% | COC=1C(=CC2=C(CCOC2(C)C2CCNCC2)C1)OC | C17H25NO3
